US07067540B2
Step 1: Preparation of ethyl(5-fluoro-2-methylphenoxy)acetate.
To a solution of 5-fluoro-2-methylphenol (1.00 g, 7.93 mmol) and ethylbromoacetate (1.59 g, 9.51 mmol) in DMF (15 mL) was added K2CO3 (1.10 g, 7.93 mmol). After 30 min at RT, DMF was removed by distillation. The crude product was washed with 5% citric acid (30 mL) and water (30 mL), extracted in DCM (3×20 mL), dried over Na2SO4, filtered, concentrated, and dried in vacuo. Desired product obtained as yellow oil (1.30 g, 77%). 1H NMR (CD3OD/400 MHz) δ 7.09 (t, 1H, J=8.8 Hz), 6.58 (m, 1H), 6.56 (m, 1H), 4.71 (s, 2H), 4.23 (q, 2H, J=7.2 Hz), 2.18 (s, 3H), 1.27 (t, 3H, J=7.2 Hz). ES HRMS m/z 212.0847 (M+H calculated for C11H13FO3 requires 212.0849). Step 2: Preparation of ethyl [2-(bromomethyl)-5-fluorophenoxy]acetate.

reactant | 5-fluoro-2-methylphenol | 7.93 mmol, 1.00 g | FC=1C=CC(=C(C1)O)C | C7H7FO
reactant | ethylbromoacetate | 9.51 mmol, 1.59 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | K2CO3 | 7.93 mmol, 1.10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | ethyl(5-fluoro-2-methylphenoxy)acetate | C(C)OC(COC1=C(C=CC(=C1)F)C)=O | C11H13FO3
